US08809267B2
(S)-(+)-3-Hydroxy-tetrahydrofuran (0.88 mL, 13 mmol) was dissolved in DCM (5 mL) and H2O (40 mL), carbonic acid bis-(4-nitro-phenyl)ester (5.8 g 19 mmol) and TEA (2.8 mL, 20 mmol) were added slowly. The reaction was allowed to stir at room temperature for 24 h. After concentrated, diluted with EtOAc, washed with brine and H2O, dried over Na2SO4, the crude product was purified on silica (12 g, 25-75% EtOAc/hexanes) to give carbonic acid 4-nitro-phenyl ester tetrahydro-furan-3-yl ester as light yellow solid (2.3 g, 71%).

reactant | (S)-(+)-3-Hydroxy-tetrahydrofuran | 13 mmol, 0.88 mL | O[C@@H]1COCC1 | C4H8O2
reactant | carbonic acid bis-(4-nitro-phenyl)ester | 19 mmol, 5.8 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H8N2O7
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 40 mL | O | H2O
product | carbonic acid 4-nitro-phenyl ester tetrahydro-furan-3-yl ester | 2.3 g, 71% | O1CC(CC1)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11NO6
